US05399712
736 mg (4 mmol) of pentafluorophenol and 825 mg (4 mmol) of dicyclohexylcarbodiimide were added to a stirred solution of 352 mg (4 mmol) of pyruvic acid in 10 ml of dichloromethane at 0° C. under nitrogen. The mixture obtained was diluted with 40 ml of dichloromethane and stirred at room temperature for 18 hours. The solvent was removed under reduced pressure. The residue was treated with 5 ml of cold ethyl acetate. The mixture was filtered and the filtrate was evaporated to dryness. The residue was purified by flash chroma- tography on silica gel using ethyl acetate/dichloromethane (1:8) for the elution to give 802 mg of pentafluorophenyl pyruvate.

reactant | pentafluorophenol | 4 mmol, 736 mg | FC1=C(C(=C(C(=C1O)F)F)F)F | C6HF5O
reactant | dicyclohexylcarbodiimide | 4 mmol, 825 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | pyruvic acid | 4 mmol, 352 mg | C(C(=O)C)(=O)O | C3H4O3
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
product | pentafluorophenyl pyruvate | 802 mg | C(C(=O)C)(=O)OC1=C(C(=C(C(=C1F)F)F)F)F | C9H3F5O3
